US07304083B2
(Step 2) 1-(3-Ethylpentyl)-2-nitro-1H-imidazole
A solution of 2-nitro-1H-imidazole potassium salt (300 mg, 2.0 mmol), 3-ethylpentyl methanesulfonate (463 mg, 2.4 mmol) and 18-crown-6 (1.1 g, 4.2 mmol) in acetonitrile (10 ml) was heated at 80° C. for 6 hours. After cooling to room temperature, ethyl acetate and water were added and the organic layer was separated off. After washing with water and brine, drying was performed with anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (370 mg) as a colorless oil.

reactant | 2-nitro-1H-imidazole potassium salt | 2.0 mmol, 300 mg | [K].[N+](=O)([O-])C=1NC=CN1
reactant | 3-ethylpentyl methanesulfonate | 2.4 mmol, 463 mg | CS(=O)(=O)OCCC(CC)CC | C8H18O3S
reactant | 18-crown-6 | 4.2 mmol, 1.1 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 1-(3-Ethylpentyl)-2-nitro-1H-imidazole | 370 mg | C(C)C(CCN1C(=NC=C1)[N+](=O)[O-])CC | C10H17N3O2
